Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain, shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Ms. ___ is an ___ year old female with PMH of HTN, HLD, 
LVH,
COPD, and CKD III who was transferred from ___ with
non-exertional chest pain.

Patient reports that she has been having chest pain for several
months. Of note she had an outpatient stress test performed last
week which she reports was 'abnormal.' She was scheduled to see
cardiology tomorrow but this morning developed worsening of her
chest pain. She describes it as a midsternal chest pressure with
no radiation. She reports that she took 4 chewable aspirin at
home and this resulted in resolution of her symptoms. Her
symptoms then returned several hours later and her pain has been
constant since this afternoon. Her EKG at ___ was reportedly
concerning for ischemia and she was transferred to ___ for
urgent cardiology consult and likely cath. 
Report of the EKG at ___:
ECG Impression : Sinus rhythm
ECG Impression : Short PR interval
ECG Impression : Borderline ST depression, lateral leads
ECG Impression : Minimal ST elevation, inferior leads

Troponin-T at ___ was <0.010 at 18:35

*Of note was only able to access the report of the EKG and 
images
of the EKG were not sent with the patient.* EKG done at ___ 
was negative for ischemic changes. Patient was given SL nitro 
with no relief of her pain and started on a heparin gtt prior to 
transfer to ___. 

 
Past Medical History:
- Wegener's granulomatosis 
- OSTEOARTHRITIS - MULT JOINTS 
- Kidney, horseshoe 
- Esophageal reflux 
- Hyperlipidemia 
- Basal cell carcinoma 
- Diverticulosis 
- Impaired fasting glucose 
- Microalbuminuria 
- Mitral regurgitation 
- LVH (left ventricular hypertrophy) 
- Pulmonary hypertension 
- Kidney disease, chronic, stage III (___ ___ ml/min) 
- Raynaud disease 
- COPD (chronic obstructive pulmonary disease) 
- Gastritis 
- Gastroparesis 
- Non-rheumatic tricuspid valve insufficiency 
- Lung nodule, multiple 
- Lung mass-lung biopsy, giant cell vasculitis 
 
Social History:
___
Family History:
Brother  CAD/PVD 
Daughter  Cancer - ___ 
Father  CAD/PVD 
Mother  Cancer - ___ 
 
Physical Exam:
ADMISSION EXAM
================
VITALS:
24 HR Data (last updated ___ @ 213)
    Temp: 97.8 (Tm 97.8), BP: 117/56 (84-117/46-61), HR: 53, RR:
16, O2 sat: 93%, O2 delivery: RA, Wt: 167.99 lb/76.2 kg  
GENERAL:     Alert and interactive. In no acute distress.
HEENT:       PERRL, EOMI. MMM.
CARDIAC:     RRR no m/r/g appreciated
LUNGS:       CTAB no r/r/w
ABDOMEN:     Soft, NT, ND, +BS
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN:        Warm. No rashes.
NEUROLOGIC:  AOx3. Grossly intact.

DISCHARGE EXAM
===============
24 HR Data (last updated ___ @ 1154)
    Temp: 97.7 (Tm 97.8), BP: 127/66 (84-127/46-74), HR: 69
(53-69), RR: 16, O2 sat: 95% (93-96), O2 delivery: Ra, Wt: 
167.99
lb/76.2 kg  

Fluid Balance (last updated ___ @ 839) 
  Last 8 hours  Total cumulative -374.2ml
    IN: Total 75.8ml, IV Amt Infused 75.8ml
    OUT:  Total 450ml, Urine Amt 450ml, Emesis 0ml
  Last 24 hours  Total cumulative 125.8ml
    IN: Total 575.8ml, IV Amt Infused 575.8ml
    OUT:  Total 450ml, Urine Amt 450ml, Emesis 0ml 
 
Weight:  76.2kg
Weight on admission: unknown
  
Telemetry:  NSR
General:  Ill appearing, tremulous, pale
HEENT:  +JVD up to 8cm, no masses or thyromegaly. 
Lungs:  +bibasilar crackles, no wheezes
CV:  RRR no m/r/g. 2+ radial and dp pulses
Abdomen:  Soft, NTND. Normoactive BS
Ext:  Trace edema b/l. 

 
Pertinent Results:
ADMISSION LABS
==================
___ 09:36PM BLOOD WBC-5.4 RBC-3.15* Hgb-10.0* Hct-29.4* 
MCV-93 MCH-31.7 MCHC-34.0 RDW-12.8 RDWSD-43.6 Plt ___
___ 09:36PM BLOOD Neuts-64.6 ___ Monos-11.7 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-3.47 AbsLymp-1.18* 
AbsMono-0.63 AbsEos-0.05 AbsBaso-0.03
___ 09:36PM BLOOD Glucose-120* UreaN-21* Creat-0.9 Na-131* 
K-5.7* Cl-92* HCO3-23 AnGap-16
___ 09:36PM BLOOD Calcium-9.3 Phos-4.0 Mg-1.8

DISCHARGE LABS
====================
___ 07:07AM BLOOD WBC-6.4 RBC-3.05* Hgb-9.7* Hct-29.1* 
MCV-95 MCH-31.8 MCHC-33.3 RDW-12.8 RDWSD-43.9 Plt ___
___ 07:07AM BLOOD Glucose-128* UreaN-16 Creat-0.7 Na-131* 
K-3.9 Cl-95* HCO3-25 AnGap-11

CARDIAC CATH ___
=================
Mild coronary coronary artery, mild 30% stenosis in the LAD
 
Brief Hospital Course:
HOSPITAL COURSE:
====================
Ms. ___ is an ___ year old female with PMH of HTN, HLD, 
LVH, COPD, and CKD III who was transferred from ___ 
with non-exertional chest pain.

Patient reports that she has been having chest pain for several 
months. Of note she had an outpatient stress test performed last 
week which she reports was 'abnormal.' She was scheduled to see 
cardiology tomorrow but on the morning of presentation developed 
worsening of her chest pain. She describes it as a midsternal 
chest pressure with no radiation. She reports that she took 4 
chewable aspirin at home and this resulted in resolution of her 
symptoms. Her symptoms then returned several hours later and her 
pain has been constant since this afternoon. Her EKG at ___ 
was reportedly concerning for ischemia and she was transferred 
to ___ for urgent cardiology consult and likely cath. 

Report of the EKG at ___:
ECG Impression : Sinus rhythm
ECG Impression : Short PR interval
ECG Impression : Borderline ST depression, lateral leads
ECG Impression : Minimal ST elevation, inferior leads

Troponin-T at ___ was <0.010 at 18:35

*Of note was only able to access the report of the EKG and 
images
of the EKG were not sent with the patient.* EKG done at ___ 
was negative for ischemic changes. Patient was given SL nitro 
with no relief of her pain and started on a heparin gtt prior to 
transfer to ___. 

TRANSITIONAL ISSUES 
==================== 
[ ] Ongoing management of CAD risk factors
[ ] Further treatment of noncardiac chest pain
[ ] Further work up of her hyponatremia

ACUTE/ACTIVE ISSUES:
====================
#Chest Pain
#Unstable Angina 
Stress test from At___ last week showed mild to moderate 
ischemia at ___. Unable to review EKG from OSH but no ST 
elevations seen on EKG done in the ED. Troponin negative at OSH 
and repeat negative here as well. Cardiac cath performed today 
showed only non obstructive disease with ___ in LAD, nothing 
on RCA or LCx as previously suspected. We increased the dose of 
her atorvastatin to 80mg daily.

#Hyponatremia
Given not volume overloaded and not in acute heart failure, 
euvolemic causes including SIADH are high on the differential, 
given her medications. Her Na 131 is unchanged from OSH records 
last week, so it is possible this is her baseline. Did not 
replete prior to discharge

CHRONIC/STABLE ISSUES:
======================
#HTN
- Continue home antihypertensive regimen

#HLD
- Increased atorvastatin to 80mg

#GERD
- Continued pantoprazole, Ativan for nausea

#COPD
- Albuterol nebulizer PRN
- Pts inhalers not formulary; did not stay inpatient long enough 
for family to bring them in
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Atorvastatin 40 mg PO QPM 
2. Atenolol 25 mg PO DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. LORazepam 0.5 mg PO Q8H:PRN anxiety 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
8. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
9. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY  
5.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had worsening chest pain and an 
abnormal stress test result. 

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 -  In the hospital, we obtained further tests to look for 
performed a cardiac cath to assess for possible blockage in the 
vessels of your heart that could explain the cause of your chest 
pain, which was negative. 
- We increased the dose of your statin to 80 mg.

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Please continue to take your medications as prescribed
- Please follow up with your cardiologist in ___ weeks for 
further management. 

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  

 
Followup Instructions:
___